US04560750
Benzhydryl 7β-(2',2',3'-tribromopropylideneamino)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate
To a solution of benzhydryl 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate (2.473 g, 5.000 mmol) in methylene chloride (35 ml) was added under ice-cooling a solution of 2,2,3-tribromopropanal (1.474 g, 5.000 mmol) in methylene chloride (5 ml) and the mixture was stirred for 20 minutes. The reaction mixture was cooled to -20° C., N,N-dimethylaniline (3.5 ml) was added thereto and then thionyl chloride (0.5 ml, 6.9 mmol) was added dropwise. After stirring under ice-cooling for 2 hours, the reaction mixture was poured into a mixture of a saturated aqueous solution of potassium hydrogen sulfate (100 ml) with ice (100 g) followed by extraction with methylene chloride (400 ml, twice). The methylene chloride layer was washed successively with an ice-cooled saturated aqueous solution of potassium hydrogen sulfate (200 ml) and then ice-water (200 ml). Thereafter, the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was crystallized with the addition of ethyl acetate (20 ml). The crystalline substance was recovered by filtration, washed with a small volume of ice-cooled methylene chloride and dried under reduced pressure to yield 2.720 g (71%) of the title compound as a pale yellow crystal. This product gradually decomposed with coloration at 90° C. and higher.

reactant | benzhydryl 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 5.000 mmol, 2.473 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | 2,2,3-tribromopropanal | 5.000 mmol, 1.474 g | BrC(C=O)(CBr)Br | C3H3Br3O
reactant | N,N-dimethylaniline | 3.5 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | thionyl chloride | 6.9 mmol, 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium hydrogen sulfate | 100 ml | S(=O)(=O)(O)[O-].[K+]
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Benzhydryl 7β-(2',2',3'-tribromopropylideneamino)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 2.720 g, 71% | BrC(C=N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)(CBr)Br | C26H23Br3N6O3S2
